US04673746
A solution of 5.3 g of 3-(4-chlorophenyl)-6-hydroxy-1,2-benzisoxazole in 30 ml of dimethylformamide is added dropwise to a suspension of 0.65 g of sodium hydride (50% suspension in oil) in 30 ml of dimethylformamide. After stirring for 20 min, 1.4 ml of ethyl bromoacetate is added. The reaction mixture is stirred for 1 hr, poured into water and the precipitate is collected. The precipitate is added to 30 ml of 15% sodium hydroxide solution and 30 ml methanol and heated at reflux for 3 hr. The mixture is poured into water, acidified and filtered. Recrystallization from toluene and acetonitrile gives {[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}-acetic acid, mp 207° C.

reactant | 3-(4-chlorophenyl)-6-hydroxy-1,2-benzisoxazole | 5.3 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)O | C13H8ClNO2
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.4 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | {[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}-acetic acid | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OCC(=O)O | C15H10ClNO4
